US07186715B2
Step 1: 2-Chloro-6-fluoro phenol
2-Chloro-6-fluoro anisole (5 g, 31.13 mmol) was dissolved in DCM (300 mL) and cooled to about −78° C. To the solution was added BBr3 (7.35 mL, 77.8 mmol) in one portion. The reaction was warmed to r.t, stirred for about 16 hours and poured over ice to quench remaining BBr3. The material was partitioned between water and DCM (500 mL each). The aqueous layer was back extracted with DCM (200 mL), and the combined organics were dried (NaSO4), filtered and concentrated to give the product (4.60 g) as a dark oil.

reactant | 2-Chloro-6-fluoro anisole | 31.13 mmol, 5 g | ClC1=C(C(=CC=C1)F)OC | C7H6ClFO
reactant | BBr3 | 77.8 mmol, 7.35 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-6-fluoro phenol | 4.60 g | ClC1=C(C(=CC=C1)F)O | C6H4ClFO
